US07696223B2
a) 2-(6-Chloro-pyridin-3-yl)-4-{[(2,4-dimethoxy-benzyl)-ethoxycarbonylmethyl-amino]-methyl}-thiazole-5-carboxylic acid ethyl ester
Prepared from 2-bromo-4-{[(2,4-dimethoxy-benzyl)-ethoxycarbonylmethyl-amino]-methyl}-thiazole-5-carboxylic acid ethy ester, example 81(b), and 2-chloropyridine-5-boronic acid under conditions analogous to experimental example 81(c). MS: (+) m/z 534.3 (M+1).

reactant | 2-bromo-4-{[(2,4-dimethoxy-benzyl)-ethoxycarbonylmethyl-amino]-methyl}-thiazole-5-carboxylic acid ethy ester | C(C)OC(=O)C1=C(N=C(S1)Br)CN(CC(=O)OCC)CC1=C(C=C(C=C1)OC)OC | C20H25BrN2O6S
reactant | 2-chloropyridine-5-boronic acid | ClC1=NC=C(C=C1)B(O)O | C5H5BClNO2
product | 2-(6-Chloro-pyridin-3-yl)-4-{[(2,4-dimethoxy-benzyl)-ethoxycarbonylmethyl-amino]-methyl}-thiazole-5-carboxylic acid ethyl ester | C(C)OC(=O)C1=C(N=C(S1)C=1C=NC(=CC1)Cl)CN(CC(=O)OCC)CC1=C(C=C(C=C1)OC)OC | C25H28ClN3O6S
